US05811428
2,4-DICHLORO-5-N-[3',5'-BIS(TRIFLUOROMETHYL)BENZYL]PYRIMIDINE-5-CARBOXAMIDE
The title compound was prepared as described in Example 1, but employing 2,4-dichloropyrimidine-5-carbonylchloride (0.10 g, 0.40 mmol) and 3,5-bistrifluoromethylbenzylamine (0.10 g, 0.45 mmol) to give the compound in a 61% yield (0.12 g); m.p. 144°-145° C.

reactant | 2,4-dichloropyrimidine-5-carbonylchloride | 0.40 mmol, 0.10 g | ClC1=NC=C(C(=N1)Cl)C(=O)Cl | C5HCl3N2O
reactant | 3,5-bistrifluoromethylbenzylamine | 0.45 mmol, 0.10 g | FC(C=1C=C(CN)C=C(C1)C(F)(F)F)(F)F | C9H7F6N
product | 2,4-DICHLORO-5-N-[3',5'-BIS(TRIFLUOROMETHYL)BENZYL]PYRIMIDINE-5-CARBOXAMIDE | 61% yield | ClC1=NC=C(C(=N1)Cl)C(=O)NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C14H7Cl2F6N3O
